US08314081B2
To a 500 mL dry round bottom flask were added 2-(benzyl(methyl)amino)ethanol (46.3 g, 280.2 mmol), triethylamine (150 mL, 1.08 mol), acetic anhydride (31.8 mL, 336.2 mmol), anhydrous CH2Cl2 (100 mL) and a crystal piece of DMAP (4-Dimethylaminopyridine). The mixture was stirred at room temperature for 3 hours. MTBE (700 mL) was added into the reaction mixture, and this mixture was washed, respectively, with cold 2N NaOH (150 mL), water (100 mL), brine (150 mL). The MTBE layer was concentrated, and the residue was poured onto a silica gel pad (200.0 g). The pad was eluted with a co-solvents of ethyl acetate: heptane=3:1 to give 2-(benzyl(methyl)amino)ethyl acetate (50.8 g) as a yellow oil. Yield: 87%. 1H NMR (CDCl3, 300 MHz): δ=7.41-7.25 (m, 5H), 4.29 (t, J=6.3 Hz, 2H), 3.65 (s, 2H), 2.74 (t, J=6.0 Hz, 2H), 2.38 (s, 3H), 2.14 (s, 3H). 13C NMR (CDCl3, 75.5 MHz): δ=170.9, 138.7, 128.9, 128.2, 127.1, 62.5, 62.2, 55.3, 42.6, 21.0.

reactant | 2-(benzyl(methyl)amino)ethanol | 280.2 mmol, 46.3 g | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
reactant | triethylamine | 1.08 mol, 150 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 336.2 mmol, 31.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C1=CC=NC=C1)C | C7H10N2
solvent | MTBE | 700 mL | CC(C)(C)OC | C5H12O
product | 2-(benzyl(methyl)amino)ethyl acetate | 50.8 g, Yield: 87% | C(C)(=O)OCCN(C)CC1=CC=CC=C1 | C12H17NO2
